US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(butylaminocarbonyl)ethyl]piperazine
7.23 g of 3,4,5-trimethoxycinnamoyl chloride is added with stirring at room temperature to a solution of 5.00 g of 1-[1-(butylaminocarbonyl)ethyl]piperazine in 80 ml of chloroform, and the resulting solution is stirred at room temperature for 15 minutes.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 7.23 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | 1-[1-(butylaminocarbonyl)ethyl]piperazine | 5.00 g | C(CCC)NC(=O)C(C)N1CCNCC1 | C11H23N3O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(butylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NCCCC)C=C(C1OC)OC | C23H35N3O5
